US05597832
52b. 3-bromo-4-propylthiophene
Following the procedure of Example 10a, substituting 3-bromo-4-(1-oxopropyl)thiophene, from step 52a above, for the 2,2-dimethyl-1-thiophenyl-1-propanone in step 10a, the title compound was prepared in 66% yield. NMR (CDCl3) δ:7.22 (d, J=3 Hz, 1H), 6.95 (d, J=3 Hz, 1H), 2.56 (t, 7.5 Hz, 2H), 1.65 (sextet, J=7.5 Hz, 2H), 0.98 (t, J=7.5 Hz, 3H).

reactant | 3-bromo-4-(1-oxopropyl)thiophene | BrC1=CSC=C1C(CC)=O | C7H7BrOS
reactant | 2,2-dimethyl-1-thiophenyl-1-propanone | CC(C(=O)C=1SC=CC1)(C)C | C9H12OS
product | 3-bromo-4-propylthiophene | 66% yield | BrC1=CSC=C1CCC | C7H9BrS
